US04015007
An amount of 50 g (0.24 mole) of spiro[bicyclo[2.2.2]octane-2,3'-piperidine]-2',6'-dione is introduced portionwise by means of a connecting tube in the course of 15-20 minutes, with stirring, into a mixture of 14 g (0.37 mole) of lithium aluminum hydride in 3 liters of abs. ether. The temperature during the addition is not to exceed 25°. The mixture is refluxed under nitrogen for 32 hours. After subsequent cooling, successive additions are made dropwise of 14 ml of water, 28 ml of 2N sodium hydroxide solution and a further 28 ml of water. The mixture is then stirred for 1 hour; it is afterwards filtered under reduced pressure and the residue subsequently well washed with ether. The filtrate is dried over sodium sulphate and concentrated by evaporation. The residue is fractionated in high vacuum to obtain spiro[bicyclo[2.2.2]octane-2,3'-piperidine], B.P. 95°-130°/0.2 Torr. From this base there is obtained, with excess ethereal hydrogen chloride solution, spiro[bicyclo[2.2.2]octane-2,3'-piperidine]-hydrochloride, M.P. 207°-208.5° (from acetone/ether).

reactant | spiro[bicyclo[2.2.2]octane-2,3'-piperidine]-2',6'-dione | 0.24 mole, 50 g | N1C(C2(CCC1=O)C1CCC(C2)CC1)=O | C12H17NO2
reactant | lithium aluminum hydride | 0.37 mole, 14 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
reactant | sodium hydroxide | 2N, 28 ml | [OH-].[Na+]
solvent | water | 28 ml | O | H2O
solvent | water | 14 ml | O | H2O
product | spiro[bicyclo[2.2.2]octane-2,3'-piperidine] | N1CC2(CCC1)C1CCC(C2)CC1 | C12H21N
